US08049016B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-((3-methyl-1H-pyrazol-5-yl)methyl)thiazole-5-carboxamide
Following the procedure as described in Example 2, making variations as required to replace pyridin-3-ylmethanamine with (3-methyl-1H-pyrazol-5-yl)methanamine to react 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid instead of (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as an off-white solid (0.04 g, 12%): mp 225-226° C. (ethyl acetate); 1H NMR (300 MHz, DMSO-d6) δ 12.22 (s, 1H), 8.30 (t, J=5.0 Hz, 1H), 7.38-7.34 (m, 2H), 7.23-7.17 (m, 2H), 5.89 (s, 1H), 4.42 (s, 2H), 4.29 (d, J=5.7 Hz, 2H), 4.02-3.97 (m, 2H), 2.48-3.42 (m, 2H), 2.46 (s, 3H), 2.16 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 161.6, 161.5 (d, 1JC-F=243 Hz), 157.3, 155.0, 150.5 (br), 132.6 (d, 4JC-F=3 Hz), 129.9 (d, 3JC-F=8 Hz), 118.2, 115.4 (d, 2JC-F=21 Hz), 102.5, 46.1, 41.9, 41.5, 36.8 (br), 17.0, 10.6 (br); MS (ES+) m/z 428.9 (M+1).

reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
reactant | (3-methyl-1H-pyrazol-5-yl)methanamine | CC1=NNC(=C1)CN | C5H9N3
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C15H14FN3O3S
product | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-((3-methyl-1H-pyrazol-5-yl)methyl)thiazole-5-carboxamide | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)NCC2=CC(=NN2)C)=O)C=C1 | C20H21FN6O2S
